US06455519B1
EX-587A) To a THF solution (8 mL) of 2-bromopyridine (1.30 g, 8.23 mmol) at −78° C. was added 1.6 M n-BuLi in hexanes (5.3 mL, 8.48 mmol). The resulting dark red solution was stirred at −78° C. for 10 min, and a solution of 0.5 M ZnCl2 in THF (18 ml, 9.0 mmol) was added giving a light brown slurry. After warming to room temperature, 3-bromobenzaldehyde (0.816 mL, 7.0 mmol) and Pd(PPh3)4 (0.242 g, 0.21 mmol) were added, and the mixture was stirred for 18 h at room temperature under argon. The reaction mixture was poured into 1 N HCl (30 mL) and washed with diethyl ether. The aqueous layer was neutralized with NaHCO3 and extracted with diethyl ether. The solvent was removed in vacuo to give the crude product as an oil. Purification by flash chromatography on silica gel eluting with 20% ethyl acetate in hexane gave 0.49 g (38%) of die desired 3-(2-pyridinyl)benzaldehyde product as a colorless oil. GCMS: m/z=183 [M]+.

reactant | 2-bromopyridine | 8.23 mmol, 1.30 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | 3-bromobenzaldehyde | 7.0 mmol, 0.816 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | HCl | 1 N, 30 mL | Cl | ClH
catalyst | ZnCl2 | 0.5 M | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.21 mmol, 0.242 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 9.0 mmol, 18 ml | C1CCOC1 | C4H8O
product | 3-(2-pyridinyl)benzaldehyde | N1=C(C=CC=C1)C=1C=C(C=O)C=CC1 | C12H9NO
